US07538109B2
17) 4-Methyl-3-oxo-3,4-dihydro-quinoxaline-2-carbaldehyde
A mixture of 1,3-dimethyl-1H-quinoxalin-2-one (1 g) and selenium dioxide (1.33 g, 2.1 eq) in dry dioxane (60 mL) was stirred at reflux under nitrogen for 30 min. After cooling, the dark-brown mixture was concentrated under reduced pressure and the residue was purified by FC (AcOEt) to give the title compound as a yellow solid.

reactant | 1,3-dimethyl-1H-quinoxalin-2-one | 1 g | CN1C(C(=NC2=CC=CC=C12)C)=O | C10H10N2O
reactant | selenium dioxide | 1.33 g, 2.1 eq | [Se](=O)=O | O2Se
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 4-Methyl-3-oxo-3,4-dihydro-quinoxaline-2-carbaldehyde | CN1C(C(=NC2=CC=CC=C12)C=O)=O | C10H8N2O2
